US04232031
Using the procedure of Example 1, a mixture of 0.8 g of 5-nitro-1H-indole, 1.53 g of the hydrate of 4-piperidone hydrochloride and 16 ml of 2 N methanolic potassium hydroxide was reacted to obtain 0.86 g of raw product which was crystallized from isopropanol to obtain 0.74 g of 5-nitro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole melting at 250° C.

reactant | 5-nitro-1H-indole | 0.8 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | 4-piperidone hydrochloride | Cl.N1CCC(CC1)=O
reactant | potassium hydroxide | 2 N, 16 ml | [OH-].[K+]
product | 5-nitro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.74 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13N3O2
